US04147799
20.5 g. of 1-(3,4-methylenedioxyphenyl)-2-chloroethanol are mixed with 30 g. of isopropylamine and 100 ml. of ethanol and the mixture is refluxed for 8 hours. After cooling, the ethanol and excess amine are removed by distillation under reduced pressure. The residue is extracted with 100 ml. of 1N HCl and the extract is washed twice with 50 ml. of ether. The hydrochloric acid extract is made basic with 1N caustic soda, and the liberated oil is extracted with ether. The ether extract is dried and an etherial hydrochloric acid solution is added. The crystalline hydrochloride settles out of solution and is filtered and dried. Upon recrystallization of the crude crystals from isopropyl alcohol, 6.4 g. of 1 -(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride are obtained.

reactant | 1-(3,4-methylenedioxyphenyl)-2-chloroethanol | C1OC=2C=C(C=CC2O1)C(CCl)O | C9H9ClO3
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | 1 -(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CNC(C)C)O | InChI=1S/C12H17NO3.ClH/c1-8(2)13-6-10(14)9-3-4-11-12(5-9)16-7-15-11;/h3-5,8,10,13-14H,6-7H2,1-2H3;1H
